US04853382
4-[[3,5-Bis(phenylmethoxy)]phenyl]-3-buten-1-ol
A stirred suspension of [3-(1-methoxy)-1-methylethoxy)propyl](triphenylphosphonium)bromide (4 g) in dry THF (25 ml) at 0° C. was heated with butyl lithium (5.28 ml) and the mixture stirred at 0° C. for 10 min. 3,5-Bis(phenylmethoxy)benzaldehyde (2.24 g) in dry THF (15 ml) was added and the mixture stirred for a further 45 min at room temperature under nitrogen, diluted with ER (100 ml) and filtered through silica (20 g) twice. The filtrate was evaporated in vacuo to give a yellow oil which was dissolved in a mixture of THF (50 ml), water (5 ml) and 2M hydrochloric acid (1 ml) and left at room temperature for 30 min. The mixture was basified with sodium bicarbonate solution and extracted with ER (200 ml). The organic phase was washed with water (150 ml), brine (100 ml), dried and evaporated in vacuo to give a yellow oil. Purification by FCC eluting with ER-CX (3:2) gave a colourless oil (1.48 g). T.l.c. (ER-CX 3:1) Rf 0.26

reactant | (triphenylphosphonium)bromide | 4 g | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | butyl lithium | 5.28 ml | C(CCC)[Li]
reactant | 3,5-Bis(phenylmethoxy)benzaldehyde | 2.24 g | C1(=CC=CC=C1)COC=1C=C(C=O)C=C(C1)OCC1=CC=CC=C1 | C21H18O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
solvent | hydrochloric acid | 2M, 1 ml | Cl | ClH
product | 4-[[3,5-Bis(phenylmethoxy)]phenyl]-3-buten-1-ol | 1.48 g | C1(=CC=CC=C1)COC=1C=C(C=C(C1)OCC1=CC=CC=C1)C=CCCO | C24H24O3
